US06670372B2
A dried round bottom flask was charged with a stir bar, 2-(2-methyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)ethyl acetate (8.7 g, 30.49 mmol), anhydrous dimethylformamide (80 mL), and anhydrous toluene (100 mL) under nitrogen. To this brown mixture was added phosphorus oxychloride (3.1 mL) by syringe at ambient temperature. The reaction solution cleared in a couple of minutes and a slight exotherm was observed. The reaction was judged to be complete after 30 minutes. The volatiles were removed under reduced pressure. The resulting brown solid was partitioned between dichloromethane and 4% aqueous sodium bicarbonate to a pH of 8. The aqueous layer was extracted with dichloromethane (5×). The organic fractions were combined, dried with anhydrous sodium sulfate, concentrated under reduced pressure and dried overnight at ambient temperature under reduced pressure to provide 9.2 g of 2-(4-chloro-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl acetate as a brown oil.

reactant | 2-(2-methyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)ethyl acetate | 30.49 mmol, 8.7 g | C(C)(=O)OCCN1C(=NC=2C=[N+](C=3C=CC=CC3C21)[O-])C | C15H15N3O3
reactant | dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
reactant | phosphorus oxychloride | 3.1 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-chloro-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl acetate | 9.2 g | C(C)(=O)OCCN1C(=NC=2C(=NC=3C=CC=CC3C21)Cl)C | C15H14ClN3O2
